US07259177B2
Methyl cis-3-(methoxymethoxy)cyclohexanecarboxylate
15 g of 6-oxabicyclo[3.2.1]octan-7-one are dissolved in 150 ml of methanol, 13 g of sodium methoxide are added and the mixture is stirred at room temperature for 2 h. 13.7 ml of glacial acetic acid are then added, and most of the solvent is distilled off under reduced pressure. The residue is taken up in water and extracted three times with in each case 100 ml of ethyl acetate. The organic phases are dried over MgSO4 and then concentrated under reduced pressure. This gives 18.8 g of the methyl ester as a colorless oil. This is dissolved in 150 ml of dichloromethane, 19.2 g of methoxymethyl chloride and 23.2 g of diisopropylethylamine are added and the mixture is stirred at room temperature for 15 h. 250 ml of saturated NH4Cl solution and 200 ml of water are added to the solution, and the organic phase is separated off. The aqueous phase is extracted with dichloromethane and the combined organic phases are dried over magnesium sulfate and concentrated. This gives 22.2 g of methyl cis-3-(methoxymethoxy)cyclohexanecarboxylate as a yellow oil. C10H18O4 (202), MS (ESI): 203 (MH+).

reactant | 6-oxabicyclo[3.2.1]octan-7-one | 15 g | C12CCCC(OC1=O)C2 | C7H10O2
reactant | sodium methoxide | 13 g | C[O-].[Na+]
reactant | acetic acid | 13.7 ml | C(C)(=O)O | C2H4O2
reactant | methanol | 150 ml | CO | CH4O
product | Methyl cis-3-(methoxymethoxy)cyclohexanecarboxylate | COCO[C@H]1C[C@H](CCC1)C(=O)OC | C10H18O4
